US04447627
3 g of 3-methyl-but-2-enyl chloride (prenyl chloride) were added, under stirring, to a suspension of magnesium turnings (20 g; 0.83 M) in 100 ml of absolute tetrahydrofurane (THF). After initiation of the reaction, there were still added 900 ml of THF and the whole mixture was then cooled to -5°. A solution of 80 g of prenyl chloride in 400 ml of THF was then added to the above mixture which was finally kept at 10° for 3 hours. After cooling to 0°, a solution of 83 g. (0.7 M) of 3-methyl-but-2-en-1-oyl chloride in 350 ml of THF was added thereto and, after having been kept at room temperature for 3 further hours, the reaction mixture was poured onto ice-water. After evaporation of the volatile parts (THF) under reduced pressure, the concentrated residue was extracted twice with diethyl ether and the combined organic extracts washed with water, then neutralized with sodium hydrogencarbonate, dried and concentrated. The crude material thus obtained was finally distilled through a VIGREUX column to yield 55.0 g of 3,3,6-trimethyl-hepta-1,5-dien-4-one having b.p. 70°-75°/11 Torr.

reactant | magnesium | 0.83 M, 20 g | [Mg] | Mg
reactant | prenyl chloride | 80 g | C(C=C(C)C)Cl | C5H9Cl
reactant | 3-methyl-but-2-en-1-oyl chloride | 0.7 M | CC(=CC(=O)Cl)C | C5H7ClO
solvent | tetrahydrofurane | 100 ml | O1CCCC1 | C4H8O
solvent | THF | 400 ml | O1CCCC1 | C4H8O
solvent | THF | 350 ml | O1CCCC1 | C4H8O
catalyst | 3-methyl-but-2-enyl chloride | 3 g | CC(=CCCl)C | C5H9Cl
solvent | THF | 900 ml | O1CCCC1 | C4H8O
product | 3,3,6-trimethyl-hepta-1,5-dien-4-one | 55.0 g | CC(C=C)(C(C=C(C)C)=O)C | C10H16O
